US07968573B2
A mixture of 5 g of 4-dimethylamino-1,1-dimethoxy-3-butene-2-one, 1.7 ml of hydrazine monohydrate and 15 ml of methanol was stirred for 8 hours under heat refluxing. The reaction mixture was concentrated under reduced pressure to obtain 4.07 g of 3-(dimethoxymethyl)-1H-pyrazole of the formula:

reactant | 4-dimethylamino-1,1-dimethoxy-3-butene-2-one | 5 g | CN(C=CC(C(OC)OC)=O)C | C8H15NO3
reactant | hydrazine monohydrate | 1.7 ml | O.NN
solvent | methanol | 15 ml | CO | CH4O
product | 3-(dimethoxymethyl)-1H-pyrazole | 4.07 g | COC(C1=NNC=C1)OC | C6H10N2O2
